US06949536B2
2-[4-(5-Oxazolyl)phenyl]-2-methyl-1,3-dioxolane (Step 2)
To a stirred solution of 2-(4-formylphenyl)-2-methyl-1,3-dioxolane (1.58 g, 8.23 mmol) in methanol (10 ml) was added tosylmethyl isocyanide (2.0 g, 10.3 mmol), potassium carbonate (1.42 g, 10.3 mmol), and the mixture was heated at reflux temperature for 2 hours. The reaction mixture was diluted with water and the whole was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:4) to give the title compound (711 mg, 37% yield).

reactant | 2-(4-formylphenyl)-2-methyl-1,3-dioxolane | 8.23 mmol, 1.58 g | C(=O)C1=CC=C(C=C1)C1(OCCO1)C | C11H12O3
reactant | tosylmethyl isocyanide | 10.3 mmol, 2.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 10.3 mmol, 1.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[4-(5-Oxazolyl)phenyl]-2-methyl-1,3-dioxolane | 711 mg, 37% yield | O1C=NC=C1C1=CC=C(C=C1)C1(OCCO1)C | C13H13NO3
